US20010000345A1
To a solution of 700 mg of 2,4-dimethyl-5-nitrobenzimidazole in 50 mL of methanol is added a catalytic amount of palladium-on-carbon. The resulting suspension is stirred at room temperature under hydrogen at atmospheric pressure for 15 hours. The reaction mixture is filtered on Celite with a methanol wash of the solids and the filtrate is concentrated. The residue is purified by flash column chromatography on silica gel, eluting with 5% methanollethyl acetate to provide 565 mg of 5-amino-2,4-dimethybenzimidazole as a tan solid.

reactant | 2,4-dimethyl-5-nitrobenzimidazole | 700 mg | CC=1NC2=C(N1)C=CC(=C2C)[N+](=O)[O-] | C9H9N3O2
solvent | methanol | 50 mL | CO | CH4O
catalyst | palladium-on-carbon | [Pd] | Pd
product | 5-amino-2,4-dimethybenzimidazole | 565 mg | NC1=C(C2=C(N=C(N2)C)C=C1)C | C9H11N3
